### PR TITLE
feat(ErdosProblems): 495

### LINKED ISSUE #756: Erdős Problem 495
### What is the conjecture
    
https://www.erdosproblems.com/495

  Let $\alpha,\beta \in \mathbb{R}$. Is it true that
$$\liminf_{n\to \infty} n \| n\alpha \| \| n\beta\| =0$$
where $\|x\|$ is the distance from $x$ to the nearest integer?
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #756

### CODE REVIEW

File: FormalConjectures/ErdosProblems/495.lean [hunk 1]
```diff
@@ -0,0 +1,44 @@
...
+noncomputable def distNearestInt (x : ℝ) : ℝ := |x - round x|
+
+/--
+Let $\alpha,\beta \in \mathbb{R}$. Is it true that\[\liminf_{n\to \infty} n \| n\alpha \|
+  \| n\beta\| =0\]
+-/
+@[category research open, AMS 11]
+theorem erdos_495 :
+    (∀ α β : ℝ, liminf (fun n : ℕ ↦ (n : ℝ) * distNearestInt (n * α)
+      * distNearestInt (n * β)) atTop = 0) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/495.lean]: We've switched to putting `answer(sorry)` first

File: FormalConjectures/ErdosProblems/495.lean [hunk 2]
```diff
@@ -0,0 +1,44 @@
...
+namespace Erdos495
+
+/--
+The distance from `x` to the nearest integer, denoted $\|x\|$.
+-/
+noncomputable def distNearestInt (x : ℝ) : ℝ := |x - round x|
+
+/--
+Let $\alpha,\beta \in \mathbb{R}$. Is it true that\[\liminf_{n\to \infty} n \| n\alpha \|
+  \| n\beta\| =0\]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/495.lean]:
```suggestion
  \| n\beta\| =0\]?
```

File: FormalConjectures/ErdosProblems/495.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/495.lean]: Done.

File: FormalConjectures/ErdosProblems/495.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/495.lean]: Done.

File: FormalConjectures/ErdosProblems/495.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+-/
+noncomputable def distNearestInt (x : ℝ) : ℝ := |x - round x|
+
+/--
+Let $\alpha,\beta \in \mathbb{R}$. Is it true that\[\liminf_{n\to \infty} n \| n\alpha \|
+  \| n\beta\| =0\]?
+-/
+@[category research open, AMS 11]
+theorem erdos_495 : answer(sorry) ↔ (∀ α β : ℝ, liminf (fun n : ℕ ↦ (n : ℝ) * distNearestInt (n * α)
+  * distNearestInt (n * β)) atTop = 0) := by sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/495.lean]:
```suggestion
theorem erdos_495 : answer(sorry) ↔ ∀ α β : ℝ, liminf (fun n : ℕ ↦ (n : ℝ) * distNearestInt (n * α)
  * distNearestInt (n * β)) atTop = 0 := by sorry
```

File: FormalConjectures/ErdosProblems/495.lean [hunk 4]
```diff
@@ -0,0 +1,42 @@
...
+namespace Erdos495
+
+/--
+The distance from `x` to the nearest integer, denoted $\|x\|$.
+-/
+noncomputable def distNearestInt (x : ℝ) : ℝ := |x - round x|
+
+/--
+Let $\alpha,\beta \in \mathbb{R}$. Is it true that\[\liminf_{n\to \infty} n \| n\alpha \|
+  \| n\beta\| =0\]?
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/495.lean]: Can you add that this is Littlewood's conjecture?

**Review by YaelDillies — COMMENTED** [review]
Thanks

File: FormalConjectures/ErdosProblems/495.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/495.lean]: Done.

File: FormalConjectures/ErdosProblems/495.lean (hunk 4 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/495.lean]: Referring to it as "the Littlewood conjecture" instead of "Littlewood's conjecture" since that's what's listed on erdosproblems.com/495. Probably doesn't matter too much, but trying to keep it consistent.

**Review by YaelDillies — APPROVED** [review]
Thanks!
